US07531673B2
The compound (−)-(S)-α-ethyl-2-oxo-1-pyrrolidineacetamide is prepared by suspending 50 grams of (S)-2-aminobutyramide hydrochloride in 500 mL of dichloromethane at room temperature, then cooling to temperatures between −5 and 0° C. and adding 81.2 grams of potassium hydroxide and 23.3 grams of tetrabutylammonium bromide at those temperatures. A 66.4 gram amount of 4-chlorobutyryl chloride is added at the same temperatures. After completion of the reaction, solids are removed by filtration, the solution is adjusted to pH 7-7.5 with acetic acid, and dichloromethane is partially evaporated by the application of a vacuum. 150 mL of ethyl acetate are added to precipitate the product, which is isolated by filtration and washed with ethyl acetate and then with acetone; the product has a chiral purity of 99.8 percent by high performance liquid chromatography. The final product is purified by recrystallization from ethyl acetate, giving a yield of 60-65 percent.

reactant | (S)-2-aminobutyramide hydrochloride | 50 grams | Cl.N[C@H](C(=O)N)CC
reactant | potassium hydroxide | 81.2 grams | [OH-].[K+]
reactant | 4-chlorobutyryl chloride | ClCCCC(=O)Cl | C4H6Cl2O
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
catalyst | tetrabutylammonium bromide | 23.3 grams | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (−)-(S)-α-ethyl-2-oxo-1-pyrrolidineacetamide | yield of 60-65 percent | C(C)[C@@H](C(=O)N)N1C(CCC1)=O | C8H14N2O2
